US06235742B1
N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]-2-nitrophenyl}acetamide
Glacial acetic acid (1.93 ml, 0.0337 mol) was added to N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]-pyrimidin-5-yl)methyl]phenyl}acetamide (1.93 g, 0.0057 mol), followed by concentrated sulphuric acid (5.8 ml) and the mixture cooled in an ice-bath. Concentrated nitric acid (3.86 ml) was then added dropwise and once addition was complete, the reaction was stirred at room temperature for an hour.

reactant | acetic acid | 0.0337 mol, 1.93 ml | C(C)(=O)O | C2H4O2
reactant | N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]-pyrimidin-5-yl)methyl]phenyl}acetamide | 0.0057 mol, 1.93 g | CN1N=C(C=2N=C(NC(C21)=O)CC2=CC=C(C=C2)NC(C)=O)CCC | C18H21N5O2
reactant | sulphuric acid | 5.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 3.86 ml | [N+](=O)(O)[O-] | HNO3
product | N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]-2-nitrophenyl}acetamide | CN1N=C(C=2N=C(NC(C21)=O)CC2=CC(=C(C=C2)NC(C)=O)[N+](=O)[O-])CCC | C18H20N6O4
